US05760050
8-Methoxy-3-(4-nitro-benzyl)-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
A mixture of 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one (1.2 g, 5.2 mmol), potassium carbonate (0.69 g, 5.0 mmol), and 4-nitrobenzyl bromide (1.1 g, 5.1 mmol) in 15 mL of N,N-dimethylformamide is heated at 90° C. for 4 hours. The cooled reaction mixture is evaporated, and the residue partitioned between ethyl acetate and brine. The organic layer is dried (anhydrous magnesium sulfate) and evaporated. Recrystallization of the residue from ethyl acetate gives 0.87 g (47%) of product; mp 176°-178° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | 5.2 mmol, 1.2 g | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | potassium carbonate | 5.0 mmol, 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitrobenzyl bromide | 5.1 mmol, 1.1 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 8-Methoxy-3-(4-nitro-benzyl)-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | 0.87 g, 47% | COC=1C=CC2=C(C1)OC(C=1CN(CCC12)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H18N2O5
